US03931202
p-Nitrophenylisocyanate (0.1 mole) was added to a solution of 3-pyridylcarbinol (0.1 mole) in 300 ml. of benzene. An exothermic reaction took place and a yellow solid formed. The suspension was heated to reflux and then stirred for 2 hours. The suspension was then cooled and filtered, affording 27 g. of a crude product melting at 230°-231° C. (decomposed). This is a 99% yield of 3-pyridylmethyl N-(4'-nitrophenyl)-carbamate. The product was purified by recrystallization from 2-methoxyethanol (methyl Cellosolve).

reactant | p-Nitrophenylisocyanate | 0.1 mole | [N+](=O)([O-])C1=CC=C(C=C1)N=C=O | C7H4N2O3
reactant | 3-pyridylcarbinol | 0.1 mole | N1=CC(=CC=C1)CO | C6H7NO
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 3-pyridylmethyl N-(4'-nitrophenyl)-carbamate | 99% yield | [N+](=O)([O-])C1=CC=C(C=C1)NC(OCC=1C=NC=CC1)=O | C13H11N3O4
